US06835731B2
Preparation of Pyridine-2-sulfonic Acid 4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzylamide:
Reaction of 8-amino-5,6,7,8-tetrahydroquinoline (200 mg, 1.35 mmol), N,N-diisopropylethylamine (157 μL, 0.90 mmol) and pyridine-2-sulfonic acid 4-chloromethyl-benzylamide (266 mg, 0.90 mmol) for 3 h at 50° C. followed by column chromatography on silica gel (CH2Cl2/MeOH/NH4OH 98:1:1) gave AMD9426 (150 mg, 41%) as a yellow oil. 1H NMR (300 MHz, CDCl3) δ 1.68-1.79 (m, 2H), 1.97-2.03 (m, 1H), 2.12-2.20 (m, 1H), 2.69-2.84 (m, 3H), 3.77-3.81 (m, 2H), 3.92 (d, 1H, J=12.0 Hz), 4.20 (br s, 2H), 7.05 (dd, 1H, J=7.5, 4.8 Hz), 7.15 (d, 2H, J=7.8 Hz), 7.25 (d, 2H, J=7.8 Hz), 7.36 (d, 1H, J=7.5 Hz), 7.39-7.44 (m, 1H), 7.82 (ddd, 1H, J=7.8, 7.8, 1.5 Hz), 7.92 (d, 1H, J=7.8 Hz), 8.36 (d, 1H, J=3.9 Hz), 8.59 (d, 1H, J=4.2 Hz); 13C NMR (75.5 MHz, CDCl3) δ 20.09, 28.94, 29.23, 47.80, 51.75, 57.87, 122.25, 122.63, 126.94, 128.45 (2C), 128.88 (2C), 132.88, 135.25, 137.30, 138.35, 147.68, 147.15, 150.34, 157.75, 157.95. ES-MS m/z 409 (M+H). Anal. Calcd. for C22 H24N4O2S•0.2 H2O•0.3CH2Cl2: C, 61.21; H, 5.76; N, 12.80; S, 7.33; 0, 8.04. Found: C, 60.82; H, 5.73; N, 12.42; S, 7.30; O, 8.14.

reactant | 8-amino-5,6,7,8-tetrahydroquinoline | 1.35 mmol, 200 mg | NC1CCCC=2C=CC=NC12 | C9H12N2
reactant | N,N-diisopropylethylamine | 0.90 mmol, 157 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | pyridine-2-sulfonic acid 4-chloromethyl-benzylamide | 0.90 mmol, 266 mg | ClCC1=CC=C(CNS(=O)(=O)C2=NC=CC=C2)C=C1 | C13H13ClN2O2S
product | Pyridine-2-sulfonic Acid 4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzylamide | N1=CC=CC=2CCCC(C12)NCC1=CC=C(CNS(=O)(=O)C2=NC=CC=C2)C=C1 | C22H24N4O2S
